US08461158B2
Reaction of tert-butyl 4-[4-[4-(tert-butyldimethylsilyloxy)-2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]piperazine-1-carboxylate from the previous step with tetrabutylammonium fluoride in THF at 0° C. gave a quantitative yield of tert-butyl 4-[4-[2-(difluoromethyl)-4-hydroxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]piperazine-1-carboxylate: mp (MeOH) 228-230° C.; 1H NMR (CDCl3) δ 7.81 (d, J=8.4 Hz, 1H), 7.55 (t, JHF=53.6 Hz, 1H), 7.32 (t, J=8.2 Hz, 1H), 6.90 (d, J=8.0 Hz, 1H), 3.88 (m, 8H), 3.79 (m, 4H), 3.53 (m, 4H), 1.50 (s, 9H); MS (APCI+) 534.1 [MH+]; Anal. Calcd. for C24H30F2N8O4: C, 54.1; H, 5.7; N, 21.0. Found: C, 54.15; H, 5.8; N, 21.3%.

reactant | tert-butyl 4-[4-[4-(tert-butyldimethylsilyloxy)-2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]piperazine-1-carboxylate | [Si](C)(C)(C(C)(C)C)OC1=CC=CC=2N(C(=NC21)C(F)F)C2=NC(=NC(=N2)N2CCOCC2)N2CCN(CC2)C(=O)OC(C)(C)C | C30H44F2N8O4Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | C1CCOC1 | C4H8O
product | tert-butyl 4-[4-[2-(difluoromethyl)-4-hydroxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]piperazine-1-carboxylate | quantitative yield | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N1CCN(CC1)C(=O)OC(C)(C)C)C=CC=C2O)F | C24H30F2N8O4
